Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pleuritic chest pain, scant hemoptysis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ Factor V Leiden (heterozygote), and recurrent unprovoked
PE (first in ___ and then again six days ago), who presents 
with
pleuritic chest pain and scant hemoptysis. 

On ___ he presented to ___ ED with acute 
onset
of LLE swelling. He was diagnosed with a proximal LLE DVT
(extending into the iliac) and bilateral segmental pulmonary
emboli. There was no obvious provocation for the VTE, and he had
been on ASA 81 mg daily, as recommended by his hematologist.

He was hospitalized briefly at ___. Received about one
day of heparin gtt, then was switched to Xarelto and discharged
three days ago. He notably was discharged on the secondary
prevention dose (20 mg daily) rather than the acute treatment
dose (20 mg BID). Realizing this error, he took 15 mg BID (using
old pills from his ___ PE) until such time as he could talk to
his hematologist. 

On the morning of this presentation, he woke up with new L sided
pleuritic chest pain, scant hemoptysis, and worsened LLE pain. 
He
was seen at the OSH ED, where he was HDS and a repeat CTPA 
showed
that his PEs were radiographically stable -- although he now
appears to have a few peripheral infiltrates consistent with
pulmonary infarcts. He was transferred to our ED.
 
Past Medical History:
VTE in ___
- found to be a heterozygote for factor V Leiden
- completed 3 months of Xarelto, then was switched to baby
aspirin
 
Social History:
___
Family History:
His mother does not carry the factor V Leiden gene, so this is
presumed to be from his father. To the patient's knowledge, his
father has no history of VTE.
 
Physical Exam:
PHYSICAL EXAM
VITALS: all vitals since arrival on the medical ward were
reviewed. He is normotensive. HR in the ___. 
 CONSTITUTIONAL: well-developed young man in mild distress from
pain. 
 EYE: sclerae anicteric, EOMI
 ENT: audition grossly intact, MMM, OP clear 
 LYMPHATIC: No LAD
 CARDIAC: RRR, no M/R/G, JVP not elevated, no edema
 PULM: normal effort of breathing, LCAB
 GI: soft, NT, ND, NABS
 GU: no CVA tenderness, suprapubic region soft and nontender
 MSK: no visible joint effusions or acute deformities.
 DERM: no visible rash. No jaundice.
 NEURO: AAOx3. No facial droop, moving all extremities.
 PSYCH: Full range of affect

DISCHARGE EXAM  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: RRR no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation
SKIN: venous engorgement noted in superficial veins of L upper
thigh (not on right)
EXTR: wwp minimal edema although L slightly >R girth 
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
CBC
___ 09:45PM BLOOD WBC-9.9 RBC-4.18* Hgb-12.4* Hct-36.5* 
MCV-87 MCH-29.7 MCHC-34.0 RDW-13.0 RDWSD-41.4 Plt ___
___ 03:40AM BLOOD WBC-9.2 RBC-4.13* Hgb-12.2* Hct-36.7* 
MCV-89 MCH-29.5 MCHC-33.2 RDW-13.0 RDWSD-42.4 Plt ___
___ 07:20AM BLOOD WBC-9.2 RBC-4.60 Hgb-13.5* Hct-41.1 
MCV-89 MCH-29.3 MCHC-32.8 RDW-13.2 RDWSD-43.5 Plt ___

BMP
___ 09:45PM BLOOD Glucose-99 UreaN-13 Creat-0.8 Na-137 
K-4.0 Cl-97 HCO3-25 AnGap-15
___ 03:40AM BLOOD Glucose-100 UreaN-11 Creat-0.8 Na-139 
K-4.3 Cl-99 HCO3-25 AnGap-15

Other chem
___ 09:45PM BLOOD proBNP-53
___ 09:45PM BLOOD cTropnT-<0.01
___ 09:45PM BLOOD cTropnT-<0.01
___ 09:45PM BLOOD Calcium-9.3 Phos-3.8 Mg-2.3
___ 03:40AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.3

TTE ___
Normal study. Normal biventricular cavity sizes and
regional/global biventricular systolic function. No valvular
pathology or pathologic flow identified. Normal pulmonary artery
systolic pressure.

 
Brief Hospital Course:
___ is a ___ year old man with Factor V Leiden 
heterozygosity, history of extensive greater saphenous veint 
hrombosis approaching saphenofemoral junction in ___ treated 
with 6 months of rivaroxoban, who was diagnosed with LLE and 
bilateral PEs last week, started on rivaroxoban, but returned to 
care with worsening pleuritic pain and persistent LLE pain, 
found to have lung infarct. Slowly improving.

#LLE DVT and bilateral PEs complicated by pulmonary infarction
#Severe L pleuritic chest pain and hemoptysis
#LLE and L groin pain
Patient initially presented to ___ on ___ and was 
found to have proximal LLE DVT extending into iliac and 
bilateral PEs. He had experienced a contusive injury at work 
recently that caused a bruise and for which he has spent a day 
at home resting, which was likely a provoking factor (although a 
relatively mild provocation). He was initially on heparin gtt 
and then transitioned to rivaroxoban given erratic PTTs and no 
clear need for heparin (no evidence of R heart strain, no 
tachycardia or hypotension). Of note, he had been discharged on 
the incorrect dose of rivaroxoban but recognized this and 
hadused his old leftover rivaroxoban from ___ at the correct 
dose. His left pleuritic chest pain and severe left leg pain 
with ambulation required a multi-medication regimen of tylenol, 
lidocaine patch, and low doses of dilaudid to become tolerable. 
With this regimen his pain became tolerable and he was able to 
be discharged with a one week of dilaudid to taper at home. 
Narcotic safety was discussed with him. He experienced some 
nausea and constipation, so was provided with zofran and 
miralax. He will follow-up closely with his PCP and 
hematologist.

==========================

TRANSITIONAL ISSUES

- close follow-up with PCP and hematologist

- given only minor provokation for VTE, likely needs lifelong 
anticoagulation

==========================

>30 minutes in patient care and coordination of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
3. OxyCODONE (Immediate Release) 5 mg PO BID:PRN Pain - Severe 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth ___ times daily Disp #*100 Tablet Refills:*0 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q3H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
three hours as needed Disp #*30 Tablet Refills:*0 
3.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth up to three times 
daily as needed Disp #*20 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO BID:PRN Constipation - First 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 dose by mouth 
___ times daily as needed Disp #*30 Packet Refills:*0 
5.  Rivaroxaban 20 mg PO DAILY 
after finishing 21 days of 15 mg twice daily 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - Second Line 
RX *sennosides [senna] 8.6 mg 1 tab by mouth ___ times daily as 
needed Disp #*30 Tablet Refills:*0 
7.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*42 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism with lung infarction
Hemoptysis
Left leg DVT, left leg pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital  because of blood clots in 
your left leg and lungs, which were causing severe chest pain 
and left leg pain. You symptoms improved with pain medications 
and continued blood thinners for the blood clots. 

We have prescribed rivaroxoban for your blood clots. You can 
take 15 mg twice daily for 3 weeks and then 20 mg daily. You 
should take it with food. You can follow-up with your primary 
care doctor and hematologist to determine the duration of your 
anticoagulation, although most likely this will need to be 
continued indefinitely.

As we discussed, it is important to take safety precautions with 
the dilaudid since it is a narcotic. You can taper this 
medication over the next week or so. 
 
Followup Instructions:
___